Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Arm radiculopathy L greater than R
 
Major Surgical or Invasive Procedure:
C5/C6 ACDF and ___ C6/C7

 
History of Present Illness:
The patient is a ___ woman who presented
with a prolonged and progressive disorder of neck and
radiating left arm pain with weakness consistent with a C5-C6
disk herniation causing spinal cord compression.  Given the
severity of her symptoms, nature of disorder, and refractory
nature of the symptoms despite conservative care, she elected
to undergo surgical treatment.

 
Past Medical History:
Past Medical History:  Heart murmur, hay fever, IBS, depression,
fibromyalgia, sleep apnea.

Surgical History:  Gallbladder, hysterectomy, D and C, ACDF at
C6-C7 with Dr. ___ cyst removal, carpal tunnel
surgery.

 
Social History:
___
Family History:
Family History:  Breast cancer, diabetes, heart disease, renal
insufficiency, dementia, blood disorders, ulcerative colitis.

 
Physical Exam:
AFVSS
Gen: A&Ox3, No acute distress
Neck supple 
___ Bi/Tri/WF/WE/DF
SILT
Incision c/d/i 
 
Pertinent Results:
___ Cervical single view in OR: FINDINGS: A single lateral 
operative view of the cervical spine shows anterior fusion at 
the C5-6 level with an intervening fusion spacer.  There is no 
spondylolisthesis. 
IMPRESSION:  Unremarkable post-operative appearance

___ C-spine non trauma 2 views: FINDINGS:  Comparison is made 
to previous study from ___. 

Patient is status post anterior cervical fusion spanning C5 to 
C6 with 
intervening disc prosthesis and anterior plate.  There are no 
signs for 
hardware-related complications.  There is soft tissue swelling 
consistent with the recent surgery.  Soft tissue drain is also 
identified.  Please refer to the operative note for additional 
details.  The visualized lung apices appear clear. 
  

 
Brief Hospital Course:
The patient presented to the orthopedic surgery spine team for 
elective treatment of a prolonged and progressive disorder of 
neck andradiating left arm pain with weakness consistent with a 
C5-C6 disk herniation causing spinal cord compression.   The 
patient was taken to the operating room on ___ for Removal 
hardware C6-C7, exploration of spinal fusion C6-C7, 
intercervical diskectomy C5-C6 interbody reconstruction with bio 
mechanical device C5-C6, anterior arthrodesis C5-C6, anterior 
instrumentation C5-C6, and a local autograft for fusion which 
the patient tolerated well (for full details please see the 
separately dictated operative report). The patient was taken 
from the OR to the PACU in stable condition and after recovery 
from anesthesia was transferred to the floor.  The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given perioperative antibiotics and anticoagulation 
per routine.  The patients home medications were continued 
throughout this hospitalization. The ___ hospital course 
was otherwise unremarkable.

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The activity restrictions have been written out 
in the discharge paperwork. The patient will follow up with Dr. 
___ on ___. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course, and 
all questions were answered prior to discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Betamethasone Dipro 0.05% Cream 1 Appl TP BID as at home 
2. Citalopram 40 mg PO DAILY 
3. Provigil (modafinil) 100 mg Oral tid 
4. TraZODone 50 mg PO HS:PRN as at home 
5. Zomig (ZOLMitriptan) 2.5 mg Oral daily migraine 

 
Discharge Medications:
1. Betamethasone Dipro 0.05% Cream 1 Appl TP BID as at home 
2. Citalopram 40 mg PO DAILY 
3. Provigil (modafinil) 100 mg Oral tid 
4. TraZODone 50 mg PO HS:PRN as at home 
5. Diazepam ___ mg PO Q8H:PRN spasm 
RX *diazepam 2 mg 1 tab by mouth every eight (8) hours Disp #*20 
Tablet Refills:*0
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
7. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN breakthrough pain  

RX *hydromorphone 2 mg ___ tablet(s) by mouth q3h Disp #*90 
Tablet Refills:*0
8. Zomig (ZOLMitriptan) 2.5 mg Oral daily migraine 
9. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN headache 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
capsule(s) by mouth Every 6 hours as needed for headaches Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
left arm radiculopathy and C5/C6 disk herniation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
ACDF:
You have undergone the following operation: Anterior Cervical 
Decompression and Fusion
 
Immediately after the operation:
- Activity: You should not lift anything greater than 10 lbs for 
2 weeks. You will be more comfortable if you do not sit in a car 
or chair for more than ~45 minutes without getting up and 
walking around.
-Rehabilitation/ Physical Therapy:
-___ times a day you should go for a walk for ___ minutes as 
part of your recovery.  You can walk as much as you can 
tolerate.
-Isometric Extension Exercise in the collar: 2x/day x ___xercises as instructed.
-Swallowing: Difficulty swallowing is not uncommon after this 
type of surgery. This should resolve over time.  Please take 
small bites and eat slowly.  Removing the collar while eating 
can be helpful – however, please limit your movement of your 
neck if you remove your collar while eating.
- Cervical Collar / Neck Brace: You have been given a soft 
collar for comfort. You may remove the collar to take a shower 
or eat.  Limit your motion of your neck while the collar is off. 
You should wear the collar when walking, especially in public
-Wound Care: Remove the dressing in 2 days.  If the incision is 
draining cover it with a new sterile dressing.  If it is dry 
then you can leave the incision open to the air.  Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower. Do not soak the incision in a 
bath or pool.  If the incision starts draining at anytime after 
surgery, do not get the incision wet. Call the office at that 
time. If you have an incision on your hip please follow the same 
instructions in terms of wound care.
-You should resume taking your normal home medications.
-You have also been given Additional Medications to control your 
pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead.  You can either have them mailed 
to your home or pick them up at the clinic located on ___. 
 We are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy.   In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.
-Follow up:
-Please Call the office and make an appointment for 2 weeks 
after the day of your operation if this has not been done 
already.
-At the 2-week visit we will check your incision, take baseline 
x rays and answer any questions.
-We will then see you at 6 weeks from the day of the operation. 
At that time we will most likely obtain Flexion/Extension X-rays 
and often able to place you in a soft collar which you will wean 
out of over 1 week.
-Please call the office if you have a fever>101.5 degrees 
Fahrenheit, drainage from your wound, or have any questions.
Physical Therapy:
-Rehabilitation/ Physical Therapy:
-___ times a day you should go for a walk for ___ minutes as 
part of your recovery.  You can walk as much as you can 
tolerate.
-Isometric Extension Exercise in the collar: 2x/day x ___xercises as instructed.
-Swallowing: Difficulty swallowing is not uncommon after this 
type of surgery. This should resolve over time.  Please take 
small bites and eat slowly.  Removing the collar while eating 
can be helpful – however, please limit your movement of your 
neck if you remove your collar while eating.
- Cervical Collar / Neck Brace: You have been given a soft 
collar for comfort. You may remove the collar to take a shower 
or eat.  Limit your motion of your neck while the collar is off. 
You should wear the collar when walking, especially in public

Treatments Frequency:
-Wound Care: Remove the dressing in 2 days.  If the incision is 
draining cover it with a new sterile dressing.  If it is dry 
then you can leave the incision open to the air.  Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower. Do not soak the incision in a 
bath or pool.  If the incision starts draining at anytime after 
surgery, do not get the incision wet. Call the office at that 
time. If you have an incision on your hip please follow the same 
instructions in terms of wound care.

 
Followup Instructions:
___